* c:\users\gowthami\esim-workspace\gpio\gpio.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ porta net-_m1-pad3_ net-_m1-pad3_ CMOSN W=4u L=180n M=1
m5 portb net-_m1-pad1_ net-_m5-pad3_ net-_m5-pad3_ CMOSN W=4u L=180n M=1
m8 net-_m3-pad2_ portb net-_m8-pad3_ net-_m8-pad3_ CMOSN W=4u L=180n M=1
m4 porta net-_m3-pad2_ net-_m4-pad3_ net-_m4-pad3_ CMOSN W=4u L=180n M=1
m2 net-_m1-pad1_ porta porta porta CMOSP W=10u L=180n M=1
m6 portb net-_m1-pad1_ porta porta CMOSP W=10u L=180n M=1
m3 porta net-_m3-pad2_ gnd gnd CMOSP W=10u L=180n M=1
m7 net-_m3-pad2_ portb gnd gnd CMOSP W=10u L=180n M=1
v1 porta gnd  dc 5V
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
